US05145970
N-(4-Amino-3-tert-butyl-5-methylphenylthio)methyl-N,N-diphenylamine
To a stirred solution of 4.5 g (23 mmol) of 2-tert-butyl-4-mercapto-6-methylaniline and 3.9 g (23 mmol) of diphenylamine in 30 mL of methanol at -5° C. is added 0.9 g (23 mmol) of formaldehyde as a 37% aqueous solution (1.9 mL). The reaction mixture is stirred for 72 hours at room temperature and then is heated for 5 hours at 50°-55° C. The solvent is removed in vacuo and the residue is purified by flash column chromatography (silica gel, 9:1, heptane:ethyl acetate eluent) to give 3.9 g (45%) of the title compound as a colorless liquid.

reactant | 2-tert-butyl-4-mercapto-6-methylaniline | 23 mmol, 4.5 g | C(C)(C)(C)C1=C(N)C(=CC(=C1)S)C | C11H17NS
reactant | diphenylamine | 23 mmol, 3.9 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | formaldehyde | 23 mmol, 0.9 g | C=O | CH2O
solvent | methanol | 30 mL | CO | CH4O
product | N-(4-Amino-3-tert-butyl-5-methylphenylthio)methyl-N,N-diphenylamine | 3.9 g, 45% | NC1=C(C=C(C=C1C)SCN(C1=CC=CC=C1)C1=CC=CC=C1)C(C)(C)C | C24H28N2S
